US04093634
One hundred grams (0.29 mole) of trisodium carboxymethyloxysuccinate pentahydrate is placed in a flask and acidified with 90 mls of 37% hydrochloric acid while stirring and cooling the mixture in an ice bath. The reaction mixture is then evaporated to dryness in vacuo. The evaporation residue is then taken up in about 150 ml acetone and filtered to remove sodium chloride. The acetone filtrate is next evaporated to dryness to give essentially pure carboxymethyloxysuccinic acid as a residue.

reactant | trisodium carboxymethyloxysuccinate pentahydrate | 0.29 mole, One hundred grams | O.O.O.O.O.C(=O)(O)COC(C(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+]
solvent | hydrochloric acid | 90 mls | Cl | ClH
product | carboxymethyloxysuccinic acid | C(=O)(O)COC(C(=O)O)CC(=O)O | C6H8O7
